US06248739B1
N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-methyl4-oxo-1,4-dihydro-3-quinolinecarbothioamide
A suspension of N-(4-chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarbothioamide (0.20 g) from Preparation No. 44, propargyl alcohol (0.030 mL), copper iodide (0.028 g), and bis(triphenylphosphine)palladium(II)chloride (0.0095 g) in diethylamine (10 mL) is stirred at room temperature for 18 h. The solid in the reaction mixture is filtered, then dissolved in CH2Cl2/MeOH, and adsorbed onto silica. Purification by chromatography (eluent 1% MeOH:CH2Cl2 (1 L), 2% MeOH:CH2Cl2 (1 L)) affords the title compound as a yellow solid (0.12 g).

reactant | N-(4-chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarbothioamide | 0.20 g | ClC1=CC=C(CNC(=S)C2=CN(C3=CC=C(C=C3C2=O)I)C)C=C1 | C18H14ClIN2OS
reactant | propargyl alcohol | 0.030 mL | C(C#C)O | C3H4O
solvent | diethylamine | 10 mL | C(C)NCC | C4H11N
catalyst | copper iodide | 0.028 g | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.0095 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-methyl4-oxo-1,4-dihydro-3-quinolinecarbothioamide | 0.12 g | ClC1=CC=C(CNC(=S)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)C)C=C1 | C21H17ClN2O2S
